US06617299B1
To a solution of N-[di(2-pyridinyl)methyl]-N-(2-pyridinylmethyl)amine (1.262 g, 4.59 mmol) in 1,2-dichloroethane (35 ml) was added formaldehyde (37% solution in water, 0.45 ml, 6.0 mmol). NaBH(OAc)3 (3.92 g, 18.5 mmol) was added in small portions. After stirring for 7 h at room temperature saturated NaHCO3(aq) (35 ml) was added and the 1,2-dichloroethane layer was separated. The aqueous layer is extracted with CH2Cl2 (3×20 ml). The combined organic layers were washed with 1N NaOH (20 ml) and brine (20 ml), dried (Na2SO4) and the solvent removed in vacuo to give N-[di(2-pyridinyl)methyl]-N-methyl-N-(2-pyridinylmethyl)amine (1.235 g, 4.27 mmol, 93%) as a slightly yellow oil. 1H NMR (CDCl3, 300 MHz) δ 2.19 (s, 3H), 3.72 (s, 2H), 4.96 (s, 1H), 7.14 (m, 3H), 7.71 (m, 6H), 8.56 (m, 3H); 13C NMR (CDCl3, 50 MHz) δ 40.32 (q), 61.04 (t), 77.87 (d), 121.76 (d), 122.10 (d), 122.92 (d), 123.21 (d), 136.29 (d), 136.43 (d), 148.86 (d), 149.22 (d), 159.37 (s), 160.59 (s), MS (CI): m/z 291 (M+1).

reactant | N-[di(2-pyridinyl)methyl]-N-(2-pyridinylmethyl)amine | 4.59 mmol, 1.262 g | N1=C(C=CC=C1)C(NCC1=NC=CC=C1)C1=NC=CC=C1 | C17H16N4
reactant | formaldehyde | 6.0 mmol, 0.45 ml | C=O | CH2O
reactant | NaBH(OAc)3 | 18.5 mmol, 3.92 g | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | NaHCO3 | 35 ml | C(=O)(O)[O-].[Na+]
solvent | 1,2-dichloroethane | 35 ml | ClCCCl | C2H4Cl2
product | N-[di(2-pyridinyl)methyl]-N-methyl-N-(2-pyridinylmethyl)amine | 4.27 mmol, 1.235 g, 93% | N1=C(C=CC=C1)C(N(CC1=NC=CC=C1)C)C1=NC=CC=C1 | C18H18N4
